US06057311
a. 1-carboxymethyl-4-(3-methylphenyl)carbamyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine
A solution of 1-tert-butyloxycarbonyl-4-(3-methylphenyl)carbamyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine (452 mg, 1.0 mmol) in chloroform (4 ml) was stirred with trifluoroacetic acid (4 ml) at room temperature for 2 hours. The mixture was evapoarted to dryness and the residue dissolved in chloroform (50 ml), washed with brine (3×40 ml), and dried (MgSO4). Filtration and evaporation of the solvent gave the product. (393 mg, 99%).

reactant | 1-tert-butyloxycarbonyl-4-(3-methylphenyl)carbamyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | 1.0 mmol, 452 mg | C(C)(C)(C)OC(=O)N1C(CN(CCC(C2=C1C=CC=C2)=O)C(NC2=CC(=CC=C2)C)=O)=O | C24H27N3O5
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-carboxymethyl-4-(3-methylphenyl)carbamyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(=O)(O)CN1C(CN(CCC(C2=C1C=CC=C2)=O)C(NC2=CC(=CC=C2)C)=O)=O | C21H21N3O5
